US08877815B2
To a solution of (S)—N-(3-(biphenyl-4-yl)-1-(dimethylamino)-1-oxopropan-2-yl)-1-(2-chloroallyl)cyclopentanecarboxamide (78 mg, 0.18 mmol) in acetone (5 mL) at −78° C. was bubbled ozone for 1 minutes with a persistent pale blue color. The mixture was stirred at −78° C. for 5 minutes. To the mixture was bubbled oxygen for 10 minutes then added dimethyl sulfide (0.5 mL) followed by 1 mL of water. The mixture was stirred for 1 hr at room temperature and concentrated under reduced pressure. The obtained mixture was diluted in EtOAc and acidified with 1 M HCl. The organic layer was washed with water, brine, dried over MgSO4, filtered and concentrated under reduced pressure. The obtained residue was purified by RP-HPLC (SunFire C18, H2O (0.1% TFA)/CH3CN) to give (S)-2-(1-(3-(biphenyl-4-yl)-1-(dimethylamino)-1-oxopropan-2-ylcarbamoyl)cyclopentyl)acetic acid (62 mg). HPLC retention time=1.54 minutes (condition D); MS (m+1)=423.1; 1H NMR (400 MHz, ACETONITRILE-d3) δ ppm 1.50-1.76 (m, 6H), 1.86-2.09 (m, 2H), 2.63 (s, 2H), 2.89 (s, 3H), 2.96-3.01 (m, 1H), 2.99 (s, 3H), 3.10 (dd, 1H), 5.00-5.20 (m, 1H), 6.95 (br. s., 1H), 7.31 (d, J=8.1 Hz, 2H), 7.35-7.44 (m, 1H), 7.48 (t, J=7.6 Hz, 2H), 7.58 (d, J=8.3 Hz, 2H), 7.62-7.72 (m, 2H).

reactant | (S)—N-(3-(biphenyl-4-yl)-1-(dimethylamino)-1-oxopropan-2-yl)-1-(2-chloroallyl)cyclopentanecarboxamide | 0.18 mmol, 78 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)N(C)C)NC(=O)C1(CCCC1)CC(=C)Cl)C1=CC=CC=C1 | C26H31ClN2O2
reactant | ozone | O=[O+][O-] | O3
reactant | acetone | 5 mL | CC(=O)C | C3H6O
product | (S)-2-(1-(3-(biphenyl-4-yl)-1-(dimethylamino)-1-oxopropan-2-ylcarbamoyl)cyclopentyl)acetic acid | 62 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)N(C)C)NC(=O)C1(CCCC1)CC(=O)O)C1=CC=CC=C1 | C25H30N2O4
